US04622318
To a suspension of benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate (syn isomer) (23.5 g) in methanol (950 ml) was added conc. hydrochloric acid (12.7 ml) at ambient temperature. The mixture was stirred for 50 minutes at 35° C. The mixture was concentrated in vacuo to give a residue, which was dissolved in a mixture of ethyl acetate, tetrahydrofuran and water. The mixture was adjusted to pH 7 with an aqueous solution of sodium bicarbonate. The organic layer was separated, washed with water and a saturated aqueous solution of sodium chloride in turn, dried over magnesium sulfate and concentrated in vacuo, and the residue was triturated in diisopropyl ether to give benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate (syn isomer) (21.5 g)

reactant | benzhydryl 7-[2-(2-formamidothiazol-4-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate | 23.5 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC=C | C37H32N6O6S3
reactant | hydrochloric acid | 12.7 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 950 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-allyloxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthiomethyl]-3-cephem-4-carboxylate | 21.5 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CS\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOCC=C | C36H32N6O5S3
